US05650410
A mixture of ethyl 2-chloromethyl-4-(3-isopropoxy-4-methoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate (3.0 g), morpholine (2.76 g) and ethanol (50 ml)--dichloromethane (5 ml) was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure, and dichloromethane (50 ml) was added to the residue. The dichloromethane layer was washed with water and dried over magnesium sulfate, and the solvent was evaporated. The residue was subjected to column chromatography on silica gel. The fractions eluted with chloroform-ethyl acetate (1:1, v/v) gave ethyl 4-(3-isopropoxy-4-methoxyphenyl)-6,7-dimethoxy-2-morpholinomethylquinoline-3-carboxylate as an oil. This oil was dissolved in ethanol (20 ml), and a solution of hydrogen chloride in ethanol (23%, 1.05 g) was added. The mixture was stirred at room temperature for 10 minutes, and the solvent was evaporated under reduced pressure. The crystals were separated by filtration and recrystallized from ethanol-ether to give ethyl 4-(3-isopropoxy-4-methoxyphenyl)-6,7-dimethoxy-2-morpholinomethylquinoline-3-carboxylate hydrochloride (1.62 g, 45%). Colorless crystals, mp. 185°-188° C.

reactant | ethyl 2-chloromethyl-4-(3-isopropoxy-4-methoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate | 3.0 g | ClCC1=NC2=CC(=C(C=C2C(=C1C(=O)OCC)C1=CC(=C(C=C1)OC)OC(C)C)OC)OC | C25H28ClNO6
reactant | morpholine | 2.76 g | N1CCOCC1 | C4H9NO
reactant | ethanol | 50 ml | C(C)O | C2H6O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | ethyl 4-(3-isopropoxy-4-methoxyphenyl)-6,7-dimethoxy-2-morpholinomethylquinoline-3-carboxylate | C(C)(C)OC=1C=C(C=CC1OC)C1=C(C(=NC2=CC(=C(C=C12)OC)OC)CN1CCOCC1)C(=O)OCC | C29H36N2O7
